US08119692B2
(3S,5R)-3-((E)-but-2-enyl)-5-(4-fluorophenyl)dihydrofuran-2(3H)-one (Intermediate D2)
To the solution of lithium bis(trimethylsilyl)amide (2.4 mL, 2.4 mmol, 1M in THF) in anhydrous 20 mL THF at −70° C. was slowly added over 15 minutes (R)-5-(4-fluorophenyl)dihydrofuran-2(3H)-one (360 mg, 2.0 mmol) as a solution in 1.0 mL THF. The reaction mixture was stirred for 20 min at −70° C. and then for 10 min at room temperature. The mixture was cooled to −70° C. and to it was slowly added a pre-cooled solution of 1-bromo-but-2-ene (324 mg, 2.4 mmol) in 400 μl HMPA an 100 μL of THF. The resulting mixture was stirred at −70° C. for 2 h and the temperature was slowly raised over a period of 2 h. The mixture was poured into 20 mL saturated NH4Cl and extracted with ethyl acetate (3×30 mL). The combined organic layers were washed with brine (2×20 mL) and dried over Na2SO4. The solvent was removed under reduced pressure and the product isolated by Flash column chromatography eluting with 0% to 50% ethyl acetate/hexane to the title compound.

reactant | lithium bis(trimethylsilyl)amide | 2.4 mmol, 1M, 2.4 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | (R)-5-(4-fluorophenyl)dihydrofuran-2(3H)-one | 2.0 mmol, 360 mg | FC1=CC=C(C=C1)[C@H]1CCC(O1)=O | C10H9FO2
reactant | 1-bromo-but-2-ene | 2.4 mmol, 324 mg | BrCC=CC | C4H7Br
reactant | NH4Cl | 20 mL | [NH4+].[Cl-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
solvent | HMPA | 400 μl | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | THF | 100 μL | C1CCOC1 | C4H8O
product | (3S,5R)-3-((E)-but-2-enyl)-5-(4-fluorophenyl)dihydrofuran-2(3H)-one | C(\C=C\C)[C@@H]1C(O[C@H](C1)C1=CC=C(C=C1)F)=O | C14H15FO2
